US06764829B2
Stage 1—Preparation of p-nitrophenyl 2,3,5-tri-O-benzoyl-β-D-ribofuranoside
A solution of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (10 g), p-nitrophenol (5.6 g, 2 eq) and boron trifluoride diethyl etherate (1.2 ml, 0.5 eq) in dry dichloromethane (100 ml) was allowed to stand at room temperature overnight. Thin-layer chromatography on silica gel [Eluant EtOAc:CHCl3:Hexanes 1:2:4] then indicated essentially complete conversion to a slightly less polar material. The solution was washed with aq bicarbonate and processed conventionally. Flash chromatography on silica gel [eluant EtOAc:CHCl3:Hexanes 1:2:8] then afforded 8.29 g of title compound.

reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 10 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | p-nitrophenol | 5.6 g, 2 eq | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | boron trifluoride diethyl etherate | 1.2 ml, 0.5 eq | B(F)(F)F.CCOCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | p-nitrophenyl 2,3,5-tri-O-benzoyl-β-D-ribofuranoside | 8.29 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C32H25NO10
